US09359358B2
Step 4: 4-{[6-(2-hydroxyethyl)-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexanone
2-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanol was dissolved in acetone (60 mL, 900 mmol), and 5.0 M hydrogen chloride in water (20 mL, 98 mmol) was added and stirred for 17 hours. LCMS and HPLC analysis showed nearly complete conversion to M+H 305. Aqueous bicarbonate was added and the reaction mixture was stirred, then concentrated. This mixture was extracted with EtOAc. The EtOAc was dried (Na2SO4), and evaporated in vacuo to give 1.3 g light yellow viscous oil (used in the next reaction without purification). 1H NMR (300 MHz, CDCl3): δ6.80 (s, 1H); 5.60 (m, 1H, OCH); 4.06 (t, 2H, OCH2); 3.04 (t, 2H, CH2); 2.61 (m, 2H); 2.45 (m, 2H); 2.25 (m, 2H).

reactant | 2-[6-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-2-(trifluoromethyl)pyrimidin-4-yl]ethanol | O1CCOC12CCC(CC2)OC2=CC(=NC(=N2)C(F)(F)F)CCO | C15H19F3N2O4
reactant | acetone | 900 mmol, 60 mL | CC(=O)C | C3H6O
reactant | hydrogen chloride | 5.0 M | Cl | ClH
reactant | water | 98 mmol, 20 mL | O | H2O
reactant | bicarbonate | C([O-])(O)=O
product | 4-{[6-(2-hydroxyethyl)-2-(trifluoromethyl)pyrimidin-4-yl]oxy}cyclohexanone | OCCC1=CC(=NC(=N1)C(F)(F)F)OC1CCC(CC1)=O | C13H15F3N2O3
